US07049438B2
Thus, tert-butyl 4-hydroxypiperidine-1-carboxylate (0.33 g) was reacted with 5-fluoro-3,4-dihydroquinazolin-4-one (0.18 g) to give 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-3,4-dihydroquinazolin-4-one (0.39 g); NM Spectrum: (CDCl3) 1.5 (s, 9H), 1.9–2.0 (m, 4H), 3.52 (m, 2H), 3.7 (m, 2H), 4.72 (m, 1H), 6.95 (d, 1H), 7.32 (d, 1H), 7.65 (m, 1H), 7.95 (s, 1H), 10.22 (br s, 1H); Mass Spectrum: M+H+ 346;

reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 0.33 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 5-fluoro-3,4-dihydroquinazolin-4-one | 0.18 g | FC1=C2C(NC=NC2=CC=C1)=O | C8H5FN2O
product | 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-3,4-dihydroquinazolin-4-one | 0.39 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(NC=NC2=CC=C1)=O | C18H23N3O4
